US05284828
Boc-D-1-Nal-OH (0.50 g), methanesulfonamide (0.18 g) DMAP (0.23 g), WSCD·HCl (0.37 g) and CH2Cl2 (10 ml) were reacted in a similar manner to that of Preparation 1-1) to give Boc-D-1-Nal-methanesulfonamide (0.63 g).

reactant | Boc-D-1-Nal-OH | 0.50 g | N([C@H](CC1=CC=CC2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C | C18H21NO4
reactant | methanesulfonamide | 0.18 g | CS(=O)(=O)N | CH5NO2S
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | Boc-D-1-Nal methanesulfonamide | 0.63 g | N([C@H](CC1=CC=CC2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C.CS(=O)(=O)N | InChI=1S/C18H21NO4.CH5NO2S/c1-18(2,3)23-17(22)19-15(16(20)21)11-13-9-6-8-12-7-4-5-10-14(12)13;1-5(2,3)4/h4-10,15H,11H2,1-3H3,(H,19,22)(H,20,21);1H3,(H2,2,3,4)/t15-;/m1./s1
